US07317019B2
(2S,3S)-(2-Amino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester (520 mg, prepared as in WO PCT 0250019) was dissolved in CH2Cl2 (20 ml) and DIEA (0.74 ml) and cooled to 0° C. prior to the addition of {2-[(azetidine-1-carbonyl)-amino]-5-trifluoromethyl-benzoylamino}-acetic acid (684 mg, prepared as in WO PCT 0250019) and HATU (756 mg). After the reaction was stirred overnight at room temperature, the CH2Cl2was removed and EtOAc was added. The organic layer was washed with saturated NH4Cl solution (aq) brine, dried, filtered, and concentrated. Flashed chromatography of the resulting residue gave (2S,3S)-[2-(2-{2-[(azetidine-1-carbonyl)-amino]-5-trifluoromethyl-benzoylamino}-acetylamino)-3-hydroxy-hex-4-ynyl]-carbamic acid benzyl ester (745 mg). MS found: (M+H)+=590.

reactant | (2S,3S)-(2-Amino-3-hydroxy-hex-4-ynyl)-carbamic acid benzyl ester | 520 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)N)=O | C14H18N2O3
reactant | DIEA | 0.74 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | {2-[(azetidine-1-carbonyl)-amino]-5-trifluoromethyl-benzoylamino}-acetic acid | 684 mg | N1(CCC1)C(=O)NC1=C(C(=O)NCC(=O)O)C=C(C=C1)C(F)(F)F | C14H14F3N3O4
reactant | HATU | 756 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (2S,3S)-[2-(2-{2-[(azetidine-1-carbonyl)-amino]-5-trifluoromethyl-benzoylamino}-acetylamino)-3-hydroxy-hex-4-ynyl]-carbamic acid benzyl ester | 745 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)NC(CNC(C1=C(C=CC(=C1)C(F)(F)F)NC(=O)N1CCC1)=O)=O)=O | C28H30F3N5O6
